US05583247
(A) (3,5-Di-tert-butyl-4-hydroxyphenyl)-(piperidin-1-yl)acetonitrile
48.6 g (0.2 Mol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde hemihydrate and 150 ml of heptane are azeotropically dried during 30 minutes using the Dean-Stark trap. The mixture is then cooled to about 80° C. 21.75 ml (0.22 Mol) of piperidine are added and the reflux is continued for one hour on the Dean-Stark trap. The deep yellow solution is cooled to 80° C. and 21 ml (0.23 mol) of acetone cyanohydrin are added dropwise over a period of ten minutes. The mixture is then stirred at 80° C. for another hour and then evaporated in vacuo. The oily residue is dissolved in 200 ml of ethanol and 30 ml of water and cooled under stirring to 0° C. The product is removed by filtration, washed with 120 ml of cold 80% ethanol and dried in vacuo to give 55.7 g of the intermediate product as yellow prisms, melting at 110°-111° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde hemihydrate | 0.2 Mol, 48.6 g | O.C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C.C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C
reactant | piperidine | 0.22 Mol, 21.75 ml | N1CCCCC1 | C5H11N
reactant | acetone cyanohydrin | 0.23 mol, 21 ml | CC(C#N)(O)C | C4H7NO
solvent | heptane | 150 ml | CCCCCCC | C7H16
product | (3,5-Di-tert-butyl-4-hydroxyphenyl)-(piperidin-1-yl)acetonitrile | 55.7 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C#N)N1CCCCC1 | C21H32N2O
